US09260375B2
2-(4-Acetoxybenzyl)-3-ethylmaleic anhydride
To the crude 3-(4-t-butyldimethylsilyloxybenzyl)-2-ethyl-2-hydroxysuccinic acid thus obtained was added acetic anhydride (5 mL), and the mixture was stirred at 115° C. for 3 h. The acetic anhydride was evaporated under reduced pressure, and the residue thus obtained was subjected to silica gel column chromatography (toluene-ethyl acetate 19:1→16:1) to give the title compound as oil in an amount of 210 mg (2 step yield: 79%).

reactant | 3-(4-t-butyldimethylsilyloxybenzyl)-2-ethyl-2-hydroxysuccinic acid | [Si](C)(C)(C(C)(C)C)OC1=CC=C(CC(C(C(=O)O)(O)CC)C(=O)O)C=C1 | C19H30O6Si
reactant | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | 2-(4-Acetoxybenzyl)-3-ethylmaleic anhydride | yield: 79% | C(C)(=O)OC1=CC=C(C/C=2/C(=O)OC(\C2\CC)=O)C=C1 | C15H14O5
